US08283364B2
Stage 5 Preparation of N-(3-fluoro-5-methyl-2-nitrophenyl)-1-(tetrahydro-2H-pyran-4-yl)-4-piperidinamine
A mixture of 1,3-difluoro-5-methyl-2-nitrobenzene (1 g), 1-(tetrahydro-2H-pyran-4-yl)-4-piperidinamine, dihydrochloride (1.63 g), sodium bicarbonate (1.94 g) and tetrabutyl ammonium iodide (100 mg) in NMP (15 ml) was slowly heated at about 50° C. for 3 hours. After cooling to about 25° C., the reaction mixture was added to ethyl acetate (15 ml) and saturated brine (15 ml). The layers were separated and the aqueous extracted with ethyl acetate (15 ml). The combined ethyl acetate layers were then washed with saturated brine (4×4 ml), dried with 2 g anhydrous sodium sulphate then concentrated under vacuum. The residue was heated with acetonitrile (4 ml) to about 60° C. to give a solution, then cooled to 0 to 5° C. and stirred for 1 hour. The solid was filtered, washed with chilled acetonitrile (2 ml), then dried at 40-45° C. under high vacuum to give the title compound as an orange solid (0.83 g).

reactant | 1,3-difluoro-5-methyl-2-nitrobenzene | 1 g | FC1=C(C(=CC(=C1)C)F)[N+](=O)[O-] | C7H5F2NO2
reactant | 1-(tetrahydro-2H-pyran-4-yl)-4-piperidinamine, dihydrochloride | 1.63 g | Cl.Cl.O1CCC(CC1)N1CCC(CC1)N
reactant | sodium bicarbonate | 1.94 g | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutyl ammonium iodide | 100 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
solvent | brine | 15 ml | [Cl-].[Na+].O
product | N-(3-fluoro-5-methyl-2-nitrophenyl)-1-(tetrahydro-2H-pyran-4-yl)-4-piperidinamine | 0.83 g | FC=1C(=C(C=C(C1)C)NC1CCN(CC1)C1CCOCC1)[N+](=O)[O-] | C17H24FN3O3
